US07781462B2
To a scintillation vial was added (4-ethynyl phenyl)-dimethyl amine (660 5 mmol) and 3,4,5-trimethoxyphenyl azide (1.05 g.; 5 mmol) and the mixture was heated at 80° C. for 24 hours. The crude mixture was purified by column chromatography to give 1-(3,4,5-trimethoxy-phenyl)-5-[4-(N,N-dimethylamino)-phenyl]-1H-[1,2,3]triazole.

reactant | (4-ethynyl phenyl)-dimethyl amine | 5 mmol | C(#C)C1=CC=C(C=C1)N(C)C | C10H11N
reactant | 3,4,5-trimethoxyphenyl azide | 5 mmol, 1.05 g | COC=1C=C(C=C(C1OC)OC)N=[N+]=[N-] | C9H11N3O3
product | 1-(3,4,5-trimethoxy-phenyl)-5-[4-(N,N-dimethylamino)-phenyl]-1H-[1,2,3]triazole | COC=1C=C(C=C(C1OC)OC)N1N=NC=C1C1=CC=C(C=C1)N(C)C | C19H22N4O3
